US09108953B2
Preparation of N-cyclopentyl-2-(cyclopropylmethoxy)-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide
A mixture of 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide (18 mg, 0.044 mmol) and cyclopropylmethanol (1 mL) was treated with excess sodium hydride and heated to 60° C. overnight. The mixture was concentrated and purified by preparative HPLC to give the desired product, N-cyclopentyl-2-(cyclopropylmethoxy)-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide.

reactant | 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide | 0.044 mmol, 18 mg | ClC1=NC=2C=C(C=C(C2C=C1)S(=O)(=O)NC1CCCC1)C=1C(=NOC1C)C | C19H20ClN3O3S
reactant | cyclopropylmethanol | 1 mL | C1(CC1)CO | C4H8O
reactant | sodium hydride | [H-].[Na+]
product | N-cyclopentyl-2-(cyclopropylmethoxy)-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide | C1(CCCC1)NS(=O)(=O)C=1C=2C=CC(=NC2C=C(C1)C=1C(=NOC1C)C)OCC1CC1 | C23H27N3O4S
